US07745438B2
Reflux a suspension of potassium carbonate (22.4 g), 1-iodopropane (10.3 mL) and 3-bromothiophenol (8.4 mL) in acetone (375 mL) for 5 hours. Cool to room temperature, filter through diatomaceous earth, and concentrate. Dissolve the residue in hexanes, filter through a silica gel plug, and concentrate to give 1-bromo-3-propylsulfanylbenzene (18 g, 95%) as an oil (GC-MS: m/z=231). Add this material (12 g) to a solution of n-butyllithium (57 mmol) in THF (50 mL) at −78° C. Stir for 45 min, add 110 N,N-dimethylformamide (8.1 mL) and warm to room temperature. Stir for 15 min, pour into water (175 mL), and extract into diethyl ether (3×200 mL). Dry (magnesium sulfate), filter, concentrate and purify (silica gel chromatography) to give the title compound (7.3 g, 92%).

reactant | potassium carbonate | 22.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-iodopropane | 10.3 mL | ICCC | C3H7I
reactant | 3-bromothiophenol | 8.4 mL | BrC=1C=C(C=CC1)S | C6H5BrS
solvent | acetone | 375 mL | CC(=O)C | C3H6O
product | 1-bromo-3-propylsulfanylbenzene | 18 g, 95% | BrC1=CC(=CC=C1)SCCC | C9H11BrS
